US08193199B2
Prepared according to Procedure F using 2-(2-fluoro-6-methoxyphenyl)-8-methylquinoline-3-carbaldehyde (1.086 g, 3.68 mmol), DCE (18 mL), PMBNH2 (0.95 mL, 7.36 mmol, 2.0 eq), and NaBH(OAc)3 (2.3387 g, 11.03 mmol, 3 eq) After purification, N-(4-methoxybenzyl)(2-(2-fluoro-6-methoxyphenyl)-8-methylquinolin-3-yl)methanamine was obtained as yellow syrup. 1H NMR (DMSO-d6) δ ppm 8.42 (1H, s), 7.84 (1H, d, J=7.4 Hz), 7.55-7.62 (1H, m), 7.43-7.54 (2H, m), 7.13 (2H, d, J=8.6 Hz), 6.90-7.01 (2H, m), 6.77-6.85 (2H, m), 3.71 (3H, s), 3.65 (3H, s), 3.47-3.62 (4H, m), 2.64 (3H, s), 2.43 (1H, s). Mass Spectrum (ESI) m/e=417.3 (M+1).

reactant | 2-(2-fluoro-6-methoxyphenyl)-8-methylquinoline-3-carbaldehyde | 3.68 mmol, 1.086 g | FC1=C(C(=CC=C1)OC)C1=NC2=C(C=CC=C2C=C1C=O)C | C18H14FNO2
reactant | PMBNH2 | 7.36 mmol, 0.95 mL, 2.0 eq | C(C1=CC=C(OC)C=C1)N | C8H11NO
reactant | NaBH(OAc)3 | 11.03 mmol, 2.3387 g, 3 eq | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DCE | 18 mL | ClCCCl | C2H4Cl2
product | N-(4-methoxybenzyl)(2-(2-fluoro-6-methoxyphenyl)-8-methylquinolin-3-yl)methanamine | COC1=CC=C(CNCC=2C(=NC3=C(C=CC=C3C2)C)C2=C(C=CC=C2OC)F)C=C1 | C26H25FN2O2
